US09260382B2
N-cinnamyl phthalimide (3 mmol) was mixed with 65% hydrazine hydrate (6 mmol, 2 equiv) and MeOH (10 mL), and the mixture was heated at 70° C. for 2 h. After the solvent was removed by a rotary evaporator, the solid residue was treated with 1 N NaOH (30 mL), and the resulting mixture was extracted with EtOAc (4×50 mL) and dried. Evaporation of the solvent under reduced pressure afforded the crude product, which was purified by flash silica gel column chromatography (eluting with 5-20% MeOH in DCM) to give cinnamyl amine. Compound 117 (white solid) was obtained at 30% yield, and compound 119 (off-white solid) was obtained at 80% yield. Identity was confirmed by 1H NMR (400 MHz, CD3OD).

reactant | N-cinnamyl phthalimide | 3 mmol | C(C=CC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C17H13NO2
reactant | hydrazine hydrate | 6 mmol, 2 equiv | O.NN
solvent | MeOH | 10 mL | CO | CH4O
product | cinnamyl amine | 30% yield | C(C=CC1=CC=CC=C1)N | C9H11N
